US07446118B2
6-(3-Hydroxy-1-pyridin-2-yl-propyl)-1H-indole-3-carbonitrile CLXXII was prepared from 3-(3-cyano-1H-indol-6-yl)-3-pyridin-2-yl-propionic acid ethyl ester using the procedure described for preparation of 4-(3-Hydroxy-1-pheny-propyl)-1H-indole-3-carbonitrile LX (Example 14).

reactant | 3-(3-cyano-1H-indol-6-yl)-3-pyridin-2-yl-propionic acid ethyl ester | C(C)OC(CC(C1=NC=CC=C1)C1=CC=C2C(=CNC2=C1)C#N)=O | C19H17N3O2
reactant | 4-(3-Hydroxy-1-pheny-propyl)-1H-indole-3-carbonitrile | OCCC(C1=CC=CC=C1)C1=C2C(=CNC2=CC=C1)C#N | C18H16N2O
product | 6-(3-Hydroxy-1-pyridin-2-yl-propyl)-1H-indole-3-carbonitrile | OCCC(C1=NC=CC=C1)C1=CC=C2C(=CNC2=C1)C#N | C17H15N3O
